US04902700
Synthesis of 2-(trans-3-amino-4-hydroxystyryl) benzothiazole
To a solution of 282 mg of 2-(trans-3-amino-4-methoxystyryl)benzothiazole dissolved in 30 ml of dichloromethane was added 380 mg of phosphorous tribromide at 70° C., and the mixture was gradually returned to room temperature and stirred overnight. After an aqueous saturated sodium hydrogen carbonate solution was added to the reaction mixture to make it weakly alkaline, the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to give 260 mg (yield 97%) of the title compound.

reactant | 2-(trans-3-amino-4-methoxystyryl)benzothiazole | 282 mg | NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1OC | C16H14N2OS
reactant | phosphorous tribromide | 380 mg | P(Br)(Br)Br | Br3P
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(trans-3-amino-4-hydroxystyryl) benzothiazole | 260 mg, yield 97% | NC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1O | C15H12N2OS
